Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
[CH3:1][N:2]=[C:3]=[S:4].[NH2:5][c:6]1[c:7]([Cl:8])[cH:9][cH:10][cH:11][c:12]1[Cl:13]>>[CH3:1][NH:2][C:3](=[S:4])[NH:5][c:6]1[c:7]([Cl:8])[cH:9][cH:10][cH:11][c:12]1[Cl:13],[NH2:5][c:6]1[c:7]([Cl:8])[cH:9][cH:10][cH:11][c:12]1[Cl:13].[CH3:1][N:2]=[C:3]=[S:4]>>[CH3:1][NH:2][C:3](=[S:4])[NH:5][c:6]1[c:7]([Cl:8])[cH:9][cH:10][cH:11][c:12]1[Cl:13],nucleophilic_attack_to_iso(thio)cyanate,"[(5, 3), ([3, 4], 4), (4, 5.1), ([5.1, 5], 5), (4, [4, 3]), ([3, 2], 2), (2, 4.1), ([4.1, 4], 4)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[N:1]#[C:2][c:3]1[cH:4][cH:5][cH:6][c:7]([N:8]=[C:9]=[O:10])[cH:11]1.[cH:12]1[cH:13][cH:14][c:15](-[c:16]2[n:17][s:18][c:19]([N:20]3[CH2:25][CH2:24][NH:23][CH2:22][CH2:21]3)[n:26]2)[cH:27][cH:28]1>>[N:1]#[C:2][c:3]1[cH:4][cH:5][cH:6][c:7]([NH:8][C:9](=[O:10])[N:23]2[CH2:22][CH2:21][N:20]([c:19]3[s:18][n:17][c:16](-[c:15]4[cH:14][cH:13][cH:12][cH:28][cH:27]4)[n:26]3)[CH2:25][CH2:24]2)[cH:11]1,[cH:12]1[cH:13][cH:14][c:15](-[c:16]2[n:17][s:18][c:19]([N:20]3[CH2:21][CH2:22][NH:23][CH2:24][CH2:25]3)[n:26]2)[cH:27][cH:28]1.[N:1]#[C:2][c:3]1[cH:4][cH:5][cH:6][c:7]([N:8]=[C:9]=[O:10])[cH:11]1>>[N:1]#[C:2][c:3]1[cH:4][cH:5][cH:6][c:7]([NH:8][C:9](=[O:10])[N:23]2[CH2:22][CH2:21][N:20]([c:19]3[s:18][n:17][c:16](-[c:15]4[cH:14][cH:13][cH:12][cH:28][cH:27]4)[n:26]3)[CH2:25][CH2:24]2)[cH:11]1,nucleophilic_attack_to_iso(thio)cyanate,"[(23, 9), ([9, 10], 10), (10, 23.1), ([23.1, 23], 23), (10, [10, 9]), ([9, 8], 8), (8, 10.1), ([10.1, 10], 10)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])OC(OC(C)(C)C)=O.[Br:8][c:9]1[cH:10][n:11][c:12]([NH:13][c:14]2[cH:15][cH:16][cH:17][c:18]([O:19][CH2:20][c:21]3[cH:22][cH:23][cH:24][cH:25][cH:26]3)[cH:27]2)[n:28][cH:29]1>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[N:13]([c:12]1[n:11][cH:10][c:9]([Br:8])[cH:29][n:28]1)[c:14]1[cH:15][cH:16][cH:17][c:18]([O:19][CH2:20][c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[cH:27]1,[Br:8][c:9]1[cH:10][n:11][c:12]([NH:13][c:14]2[cH:15][cH:16][cH:17][c:18]([O:19][CH2:20][c:21]3[cH:22][cH:23][cH:24][cH:25][cH:26]3)[cH:27]2)[n:28][cH:29]1.CC(C)(C)[O:202][C:201](=O)[O:101][C:6]([O:5][C:2]([CH3:1])([CH3:3])[CH3:4])=[O:7]>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[N:13]([c:12]1[n:11][cH:10][c:9]([Br:8])[cH:29][n:28]1)[c:14]1[cH:15][cH:16][cH:17][c:18]([O:19][CH2:20][c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[cH:27]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(13, 6), ([6, 7], 7), (7, [7, 6]), ([6, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
C[O:1][c:2]1[cH:3][c:4]2[c:5]([cH:6][cH:7]1)-[c:8]1[cH:9][n:10][n:11](-[c:12]3[cH:13][cH:14][c:15]([CH2:16][CH2:17][CH3:18])[cH:19][cH:20]3)[c:21]1[CH2:22][CH2:23]2>>[OH:1][c:2]1[cH:3][c:4]2[c:5]([cH:6][cH:7]1)-[c:8]1[cH:9][n:10][n:11](-[c:12]3[cH:13][cH:14][c:15]([CH2:16][CH2:17][CH3:18])[cH:19][cH:20]3)[c:21]1[CH2:22][CH2:23]2,[CH3:101][O:1][c:2]1[cH:3][c:4]2[c:5]([cH:6][cH:7]1)-[c:8]1[cH:9][n:10][n:11](-[c:12]3[cH:13][cH:14][c:15]([CH2:16][CH2:17][CH3:18])[cH:19][cH:20]3)[c:21]1[CH2:22][CH2:23]2.Br[B:301](Br)[Br:302].[OH2:303]>>[OH:1][c:2]1[cH:3][c:4]2[c:5]([cH:6][cH:7]1)-[c:8]1[cH:9][n:10][n:11](-[c:12]3[cH:13][cH:14][c:15]([CH2:16][CH2:17][CH3:18])[cH:19][cH:20]3)[c:21]1[CH2:22][CH2:23]2,O_demethylation,"[(1, 301), ([301, 302], 302), (302, 101), ([101, 1], 1), (303, 301), ([301, 1], 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][c:2]1[cH:3][cH:4][c:5]2[nH:6][cH:7][cH:8][c:9]2[cH:10]1.[CH3:11][C:12]([CH3:13])([CH3:14])[O:15][C:16](=[O:17])[N:18]1[CH2:19][CH2:20][NH:21][CH2:22][CH2:23]1>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]2[nH:6][cH:7][cH:8][c:9]2[cH:10]1)[N:21]1[CH2:20][CH2:19][N:18]([C:16]([O:15][C:12]([CH3:11])([CH3:13])[CH3:14])=[O:17])[CH2:23][CH2:22]1,[CH3:11][C:12]([CH3:13])([CH3:14])[O:15][C:16](=[O:17])[N:18]1[CH2:19][CH2:20][NH:21][CH2:22][CH2:23]1.[O:101]=[CH:1][c:2]1[cH:3][cH:4][c:5]2[nH:6][cH:7][cH:8][c:9]2[cH:10]1.[H+:301].[BH3-:302]C#N.[Na+]>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]2[nH:6][cH:7][cH:8][c:9]2[cH:10]1)[N:21]1[CH2:20][CH2:19][N:18]([C:16]([O:15][C:12]([CH3:11])([CH3:13])[CH3:14])=[O:17])[CH2:23][CH2:22]1,reductive_amination,"[(21, 1), ([1, 101], 301), (101, 21.1), ([21.1, 21], 21), (21, [21, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 21], 21)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
